US04558134
3-(3,4-Dichlorophenoxy)-6-propylthio-2-pyridinecarbonitrile
3-Chloro-6-propylthio-2-pyridinecarbonitrile (6.2 g) was mixed with 5.7 g of 3,4-dichlorophenol and 3.9 g of t-BuOK in 30 ml of DMSO and 30 ml THF. The desired, 3-(3,4-dichlorophenoxy)-6-propylthio-2-pyridinecarbonitrile was recovered, b.p. 203° C. (at 0.2 mm Hg).

reactant | 3-Chloro-6-propylthio-2-pyridinecarbonitrile | 6.2 g | ClC=1C(=NC(=CC1)SCCC)C#N | C9H9ClN2S
reactant | 3,4-dichlorophenol | 5.7 g | ClC=1C=C(C=CC1Cl)O | C6H4Cl2O
reactant | t-BuOK | 3.9 g | CC(C)(C)[O-].[K+]
solvent | DMSO | 30 ml | CS(=O)C | C2H6OS
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | 3-(3,4-Dichlorophenoxy)-6-propylthio-2-pyridinecarbonitrile | ClC=1C=C(OC=2C(=NC(=CC2)SCCC)C#N)C=CC1Cl | C15H12Cl2N2OS
